Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization, ___, Interventional Cardiology

 
History of Present Illness:
___ with long term stable angina with exertion, newly diagnosed 
gall bladder cancer s/p radical resection with partial 
hepatectomy who started capecebine PO 4 days ago as adjuvant 
chemotherapy, TCC s/p radical cystectomy and prostatectomy, HTN, 
HLD, and DM who presents with chest pain with minimal exertion. 
Pt reports CP with walking approx. 10 minutes. Pain is 
substernal associated with some left shoulder numbness, he 
describes feeling sweaty, with some burping. Denies 
palpitations, dizziness, nausea, or vomiting. He has had these 
symptoms for some time. The day prior to admission he had these 
symptoms while eating an orange. The pain did not go away so he 
called EMS. In the ambulance he recieved sublingual nitro and 
pain alleviated. He denies any orthopnea, SOB at rest, lower 
extremity swelling. He presented to the ED with these 
complaints.  
.  
In the ED his initial vital signs were 98.7 86 112/65 12 99% on 
RA. A first set of CEs was negative, and his ECG was 
unremarkable. He was sent to obs. Walking to obs he had some CP, 
but did not tell the RN. When he got up to go to the bathroom he 
again and CP. ___ RN was called. A repeat ECG showed dynamic 
changes in V4-6. A stat head CT was done to rule out brain 
metastatses. He was given clopidogrel 600mg PO x1 and started on 
a heparin drip. There is no record of whether he received 
aspirin. He was admitted for ACS.  
.  
On the floor he is CP free, without any shortness of breath. He 
denies any symptoms at this time.  
.  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He denies exertional buttock or calf pain. All of the other 
review of systems were negative.   
 
Past Medical History:
Cardiac Risk Factors: + Diabetes, + Dyslipidemia, + Hypertension 
 
.  
Percutaneous coronary intervention, in ___ in ___, no 
interventions taken  
.  
Other Past History:  
- S/p right carotid endarterectomy in ___  
- Hypercholesterolemia.  
- Glucose intolerance, currently being treated as a type 2 
diabetic  
- Bell's palsy  
- Nasal polyps  
- Distant history of duodenal ulcer in ___  
- Ocular motor palsy in ___, etiology unknown  
- Osteoarthritis  
- Osteopenia  
- Gout  
- Chronic anemia  
- Glaucoma  
- S/p appendectomy in ___  
- TCC T3a, N0, M0. S/p cystoprostatectomy with ileal loop 
conduit and regional lymph node dissection in ___ for a 
transitional cell carcinoma of the bladder. No chemo received 
for this  
- Primary gallbladder carcinoma T2, N0. S/p cholecystectomy and 
resection of liver segments 4B and 5 with a portal 
lymphadenectomy in ___  
 
Social History:
___
Family History:
- Sister who developed breast cancer in her ___  
- Sister with thyroid disease  
- Brother with diabetes  
- Mother died in ___ of MI  
- Father died in ___ of Alzheimer's disease  
- There is no family history of premature coronary artery 
disease or sudden death. 
 
Physical Exam:
VS - 98.0 142/79 81 16  100% 2L 
Gen:  Oriented x3. Mood, affect appropriate.  
HEENT: Sclera anicteric. PERRL, EOMI.  
Neck: Supple with JVP of 8 cm.  
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
Abd: Well healed lap scars, RLQ urostomy in place, soft, NTND. 
No HSM or tenderness. Abd aorta not enlarged by palpation. No 
abdominial bruits.  
Ext: No c/c/e. No femoral bruits.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  
.  
Pulses:  
Right:  DP 2+ ___ 2+  
Left: DP 2+ ___ 2+
 
Pertinent Results:
Labs on Admission:
___ 09:30PM BLOOD WBC-4.6 RBC-3.79* Hgb-11.1* Hct-33.7* 
MCV-89 MCH-29.3 MCHC-32.9 RDW-14.6 Plt ___
___ 10:30AM BLOOD ___ PTT-80.0* ___
___ 09:30PM BLOOD Glucose-146* UreaN-24* Creat-1.3* Na-139 
K-3.9 Cl-104 HCO3-26 AnGap-13
___ 10:56AM BLOOD ALT-21 AST-24 AlkPhos-82 TotBili-0.4
___ 09:30PM BLOOD cTropnT-0.01
___ 05:13AM BLOOD CK-MB-NotDone cTropnT-0.03*
___ 05:13AM BLOOD Albumin-4.0 Calcium-9.7 Phos-4.0 Mg-2.4 
Cholest-143
___ 05:13AM BLOOD %HbA1c-6.0* eAG-126*
___ 05:13AM BLOOD Triglyc-54 HDL-50 CHOL/HD-2.9 LDLcalc-82
___ 05:13AM BLOOD TSH-1.5
___ 10:56AM BLOOD CEA-2.3

Labs on Discharge:
___ 07:10AM BLOOD WBC-5.5 RBC-3.31* Hgb-9.8* Hct-29.8* 
MCV-90 MCH-29.7 MCHC-33.0 RDW-14.7 Plt ___
___ 07:10AM BLOOD Glucose-160* UreaN-22* Creat-1.2 Na-140 
K-3.7 Cl-103 HCO3-28 AnGap-13
___ 05:13AM BLOOD ALT-19 AST-20 LD(LDH)-179 CK(CPK)-29* 
AlkPhos-82 TotBili-0.5

Microbiology:
___ 9:23 am URINE     Site: CATHETER      Source: Catheter. 


   URINE CULTURE (Preliminary): 
      KLEBSIELLA OXYTOCA.    >100,000 ORGANISMS/ML.. 
      GRAM NEGATIVE ROD(S).    >100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA OXYTOCA
                             |   
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

Reports:
CT Head: 
1. Asymmetric hypodense focus within the right frontal lobe may 
represent
prior small vessel infarct, though edema secondary to small 
metastatic lesion is difficult to exclude. If there is clinical 
concern, MRI is recommended forexclusion of metastatic disease 
given its greater sensitivity.
2. No mass effect, intracranial hemorrhage, or acute large 
vascular territory
infarction.
3. Mucosal thickening in the left maxillary sinus with 
associated
post-surgical change.
4. Calcification of the cavernous and supraclinoid carotid 
arteries.
NOTE ADDED AT ATTENDING REVIEW: There are no findings to suggest 
infarction or metastatic disease. The white matter hypodensities 
are unchanged since ___, and presumably reflect chronic 
small vessel ischemia. There has been interval sinuse surgery 
with bilateral nasal antrostomies, ethmoidectomies and resection 
of middle turbinates.
.
CARDIAC CATHETERIZATION
1. Selective coronary angiography of this right dominant system
demonstrated diffuse mild coronary artery disease.  The LMCA had 
mild
plaquing to 10%.  The LAD had focal moderate-heavy calcification 
with
tapering of the proximal-mid LAD at large S1 with diffuse 
plaquing in
the mid LAD and a 40% stenosis at the origin of the major D1.  
The LCx
had focal moderate-heavy calcification.  There was a 30% lesion 
at the
origin, a 30% lesion in the proximal vessel and a moderate 
stenosis in
the origin of short small OM2.  The AV groove Cx supplies a 
larger
atrial branch.  The ramus had a 30% lesion at the origin.  The 
RCA was
moderately calcified with a mid-vessel diffuse 30% lesion and a 
distal
diffuse 30% lesion.  There was a larger RPDA and moderate 
caliber
branching RPL.
2. Limited resting hemodynamic measurements demonstrated mildly
elevated left sided filling pressures with LVEDP of 17 mmHg.  
The
central aortic pressure was mildly elevated at 146/63 mmHg.  
There was
no gradient upon pullback from left ventricle to aorta.
3. Pressure wire interrogation was performed on the lesion at 
the origin
of D1.  With maximal hyperemia induced by AV adenosine 
(complicated by
2:1 AV conduction at 1 min 50 seconds) the fractional flow 
reserved was
0.87 with equalization of pressure upon pullback of the pressure 
wire
back into the guiding catheter.
FINAL DIAGNOSIS:    
1. Diffuse mild to moderate coronary artery disease without
angiographically apparent high grade stenosis.
2. Systemic arterial hypertension
3. Mild left ventricular diastolic dysfunction.
4. Negative pressure wire evaluation of D1, although infusion 
terminated
due to A:V block.
.
ECHO
The left atrium is dilated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. There is mild to moderate regional left ventricular 
systolic dysfunction with inferior and inferolateral 
akinesis/hypokinesis. Right ventricular chamber size and free 
wall motion are normal. The aortic arch is mildly dilated. The 
aortic valve leaflets (3) are mildly thickened. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened and are tethered due to the regional wall motion 
abnormality. Moderate to severe (3+) mitral regurgitation is 
seen. There is mild pulmonary artery systolic hypertension. 
There is an anterior space which most likely represents a 
prominent fat pad.  Ejection Fraction (40%)
.
CXR: No acute cardiopulmonary process

 
Brief Hospital Course:
___ with HTN, HLD, DM, TCC s/p curative resection, and recently 
diagnosed gall bladder cancer s/p resection and undergoing 
adjuvant chemo admitted with CP consistent with unstable angina. 
 
.
CHEST PAIN
Risk factors for CAD include: HTN, HLD, DM, and mother with CAD 
at an advanced age. Patient had dynamic lateral wall ECG changes 
in the ED after developing chest pain while walking. CXR without 
acute cardiopulmonary process. Given ECG changes patient was 
loaded with clopidogrel and started on Heparin gtt. With history 
of Gallbladder cancer CT head was performed to evaluate for 
metastatic disease prior to starting heparin gtt and revealed no 
metastatic disease. Patient was also continued on Aspirin, 
Metoprolol,  Lisinopril, and Statin. Cardiac Catheterization was 
performed which showed mild/moderate diffuse disease without any 
high grade stenosis to explain EKG changes or chest pain. No 
stent was placed. ECHO was performed and did show inferolateral 
hypokinesis, moderate to severe mitral reguritation, with 
Ejection Fraction of 40%. At discharge patients Statin was 
increased to optimize LDL. Further he was continue on Aspirin, 
Metoprolol, and Lisinopril. He was scheduled for follow up with 
his primary care physician for further evaluation. 
.  
Rhythm: 
Sinus. Patient monitored on telemetry without event.    
.  
Urinary Tract Infection:
Urinalysis with signs of infection. Urine culture revealed 
Klebsiella Oxytoca sensitive to Ciprofloxacin. Patient was 
discharge with 7 day course of Ciprofloxacin. Patient without 
evidence of pyelonephritis.
.  
HTN: 
Well controlled while inpatient continued on home Metoprolol 
Tartrate 12.5 mg PO/NG BID and Lisinopril 10 mg PO/NG DAILY.  
.  
HLD: 
Lipid Panel evaluated while inpatient: TC143 TG54 HDL50 LDL82. 
At discharge rosuvastatin 40mg PO daily increased to 60mg PO 
daily.  
.  
DM:
Hemoglobin A1c evaluated while inpatient and was 6.0. Continued 
Jenuvia at discharge.  
.  
Gallbladder cancer: 
S/p resection and undergoing adjuvant Xeloda as a curative 
attempt. Capecetabine (Xeloda) held per Dr. ___ 
___. At discharge patient will discuss restarting 
medication with Dr. ___. 
.  
Glaucoma: 
Continued home BIMATOPROST [LUMIGAN] - 0.03 % Drops - 1 ___ 
___ and home BRIMONIDINE [ALPHAGAN P] - 0.15 % Drops - 1 gtt ___ 
BID. Stable during admission.  
.  
CODE: FULL CODE
 
Medications on Admission:
- BIMATOPROST [LUMIGAN] - 0.03 % Drops - 1 ___  
- BRIMONIDINE [ALPHAGAN P] - 0.15 % Drops - 1 gtt ___ BID  
- CAPECITABINE [XELODA] - ___ mg PO BID x 14 days and then 7 
days off, C1 D1 ___  
- HYDROCHLOROTHIAZIDE - 12.5 mg PO HS  
- LISINOPRIL - 10 mg PO daily  
- METOPROLOL TARTRATE - 12.5 mg PO BID  
- RANITIDINE HCL - 150 mg PO daily  
- SIMVASTATIN - 20 mg PO daily  
- SITAGLIPTIN [JANUVIA] - 50 mg PO daily  
- ACETAMINOPHEN - 650 mg PO BID PRN pain  
- ASCORBIC ACID 1,000 mg PO daily  
- ASPIRIN - 81 mg PO daily  
- CALCIUM CARBONATE-VITAMIN D3 [CALCIUM+D] - 500 mg 200 unit PO 
BID  
- MULTIVITAMIN PO daily  
- VITAMIN B ___ - PO daily  
 
Discharge Medications:
1. Bimatoprost 0.03 % Drops Sig: One (1)  Ophthalmic HS (at 
bedtime): ___.  
2. Brimonidine 0.15 % Drops Sig: One (1) Drop Ophthalmic BID (2 
times a day): ___.  
3. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
5. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
7. Ascorbic Acid ___ mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
8. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Calcium 500 with Vitamin D 500 mg(1,250mg) -200 unit Tablet 
Sig: One (1) Tablet PO twice a day.  
10. Januvia 50 mg Tablet Sig: One (1) Tablet PO once a day.  
11. Xeloda
Please discuss with your oncologist before restarting this 
medication. 
12. Vitamin B Complex     Tablet Sig: One (1) Tablet PO once a 
day.  
13. Multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
14. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
15. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: ___  Sublingual 
once a day as needed for chest pain: If you develop chest pain 
take one sublingual NG. If pain is not alleviated in 5 minutes 
please call ___.
Disp:*30 qs* Refills:*0*
16. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO twice a 
day for 7 days.
Disp:*14 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
HTN
Hyperlipidemia
DM

Secondary: 
Gall Bladder Cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure care for you while you were hospitalized with 
chest pain. During you stay we evaluated your heart by cardiac 
catheterization which showed that the vessels surrounding your 
heart were without major blockages. We will continue to treat 
your hypertension and cholesterol to reduce the risk of heart 
problems in the future. Further, you should continue to exercise 
30 minutes, 5 days a week. Also, try to limit the foods with 
high amounts of fat and sugar. Please follow up with your 
primary care physician ___ 2 weeks to discuss your recent 
hospitalization and continue to monitor things like blood 
pressure, cholesterol and diabetes. More so, please call your 
Oncologist after discharge and discuss restarting your 
chemotherapy, this was held during your hospitalization per her 
request.
.
During your hospitalization we also identified a urinary tract 
infection. We started an antibiotic to treat this infection. You 
should take the antibiotic fo 5 days and follow up with your PCP 
next week.
.
The following changes were made to your medical regimen. 
- STOP HCTZ, Your primary care physician ___ address restarting 
this medication. 
- START Ciprofloxacin 500mg BID for 7 Days
- CHANGE Simvastatin to 40mg Daily. 
 
Followup Instructions:
___